US05627193
Synthesis of 2-phenyl-6-methylquinoline-4-carboxylic Acid
Benzaldehyde (2.12 g) and 2.14 g of p-toluidine were dissolved in 50 ml of ethanol, and 1.76 g of pyruvic acid were added thereto dropwise. The reaction mixture was then heat-refluxed for 6 hours. The resulting reaction mixture was cooled to room temperature, and then concentrated under reduced pressure. The residue was dissolved in a 1N sodium hydroxide aqueous solution. This aqueous solution was extracted with ethyl ether, and the aqueous layer was acidified with dilute hydrochloric acid. The precipitate was collected by filtration, and dried to form 0.51 g of the above-mentioned compound.

reactant | Benzaldehyde | 2.12 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-toluidine | 2.14 g | NC1=CC=C(C=C1)C | C7H9N
reactant | pyruvic acid | 1.76 g | C(C(=O)C)(=O)O | C3H4O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-phenyl-6-methylquinoline-4-carboxylic Acid | 0.51 g | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(=C1)C(=O)O)C | C17H13NO2
